US03998863
Bis(4-tert.-butyl-3-hydroxy-2,6-dimethylbenzyl)isophthalate
A mixture of 34 g. (0.15 mole) of 4-tert.-butyl-3-hydroxy-2,6-dimethylbenzyl chloride, 12.5 g. (0.075 mole) of isophthalic acid, and 18.25 g. (0.18 mole) of triethylamine in 35 ml. of dimethylformamide was heated at a temperature of 97°-100° C. for a period of 162/3 hours. The hot melt was added to 300 g. of ice slurry to form 43 g. of a semisolid. This was extracted with 300 ml. of benzene and the benzene solution decolorized with charcoal. The filtrate was concentrated in vacuo to give 36 g. of a light amber colored oil. This was dissolved in 40 ml. of ethanol and diluted with 150 ml. of acetic acid. The mixture was added to 250 ml. of water to give 30 g. of a tan amorphous powder. Further purification was carried out by chromatography on aluminum oxide using chloroform to obtain 26 g. of an amber oil. On standing, the oil gave 14 g. of cream colored crystals, m.p. 155°-156° C. Anal. calc'd.: C=74.73, H=7.69; Found: C=75.15, H=7.62.

reactant | 4-tert.-butyl-3-hydroxy-2,6-dimethylbenzyl chloride | 0.15 mole | C(C)(C)(C)C1=C(C(=C(CCl)C(=C1)C)C)O | C13H19ClO
reactant | isophthalic acid | 0.075 mole | C(C1=CC(C(=O)O)=CC=C1)(=O)O | C8H6O4
reactant | triethylamine | 0.18 mole | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | Bis(4-tert.-butyl-3-hydroxy-2,6-dimethylbenzyl)isophthalate | C(C)(C)(C)C1=C(C(=C(COC(C2=CC(C(=O)OCC3=C(C(=C(C=C3C)C(C)(C)C)O)C)=CC=C2)=O)C(=C1)C)C)O | C34H42O6
